Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim DS / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
  PCP: ___ MD  
 CC: palpitations  
 HISTORY OF PRESENT ILLNESS:  

 ___ male with a PMH of prostate cancer s/p 
prostatectomy, paroxysmal atrial fibrillation, and recent 
admission for FUO and weight loss who presents with palpitations 
found to be in atrial fibrillation with RVR.  

 Of note, recently admitted ___ - ___ for fevers of unknown 
origin and weight loss (18 lb purposeful, 12 lb unintentional) 
discharged with follow up with pulmonary and ID with multiple 
lab tests still pending. He was noted on last admission to have 
small pericardial effusion w/o tamponade.  

Patient reports had been feeling improved since discharge until 
last ___ when he experienced return of his fevers 
(100-101.8), cough, and generalized weakness. He also reports 
sharp pain in left upper chest near shoulder that is 
reproducible with palpation over the past few days. Denies 
further weight loss and has actually managed to regain ___ lbs 
since discharge. On day of admission, he reports persistent 
palpitations and presented to ___ urgent care where he was 
found to be tachycardic to the 130s. He was sent to the ED for 
ischemic evaluation given reported pleuritic chest pain, 
palpitations. He denies SOB, lightheadedness/dizziness, 
abdominal pain, n/v/d. He does report nonproductive cough, 
unchanged over the past few weeks.  

 In the ED, initial VS were 97 150 131/81 22 97% on RA .  
 Labs showed  
 - 11.8 (72% PMN) > 15.5/45.4 < 246  
 - 132 | 98 | 15  
 --------------< 156  
 5.2 | 20 | 0.8  
 - ALT 14, AST 40, AP 70, T. bili 0.8  
 - proBNP 523  
 - Trop < 0.01  
 - Lactate 2.0  
 - UA: negative  

 Imaging showed  
 - CTA:  
 Dilated main pulmonary artery to 4.2 cm suggests pulmonary 
hypertension. Some patient respiratory motion limits assessment 
of segmental and subsegmental pulmonary arterial branches, 
particularly in the left mid to lower lung. No evidence of 
pulmonary embolism elsewhere.  
 Small intermediate density pericardial effusion, suggesting 
that it may be complex.  
 Trace left pleural effusion. Bibasilar atelectasis.  
 - CXR: Left base opacity, could be due to atelectasis, but 
pneumonia may be present in the appropriate clinical setting.  
 Received IV dilt 10 mg, PO dilt 30 mg  
 Transfer VS were 97 112/71 24 95% on RA  
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports significant 
improvement in palpitations. No complaints at this time  
 REVIEW OF SYSTEMS:  
 Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 All other 10-system review negative in detail. 
 
Past Medical History:
Prostate cancer 
Colon adenoma 
Inguinal hernia, left 
GERD (gastroesophageal reflux disease) 
RBBB (right bundle branch block) 
Palpitations 
Family history of glaucoma in mother 
Dry eyes 
ERM OD (epiretinal membrane, right eye) 
Nuclear sclerotic cataract 
 
Social History:
___
Family History:
Grandmother and Mother with CAD. No history of autoimmune 
disease.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:

VS 98.7 122/63 76 18 96% on RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera  
 CARDIAC: irregularly irregular, S1/S2, no murmurs, gallops, or 
rubs  
 LUNG: CTAB, no wheezes, rhonchi. Few crackles in bilateral 
bases  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing or edema  
 NEURO: CN II-XII grossly intact, moves all extremities  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

PHYSICAL EXAM ON DISCHARGE:
Vitals- Tm 98.7, 109-122/60-63, 67-76, 18, 96% on RA  
GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, No LAD  
 CARDIAC: regular, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rhonchi. Crackles in bilateral bases 
L>R 
 ABDOMEN: non-distended, +BS, non-tender in all quadrants, no 
rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing or edema  
 NEURO: CN II-XII grossly intact, moves all extremities  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
LABS ON ADMISSION
=============================

___ 07:20PM BLOOD WBC-11.8*# RBC-5.07 Hgb-15.5 Hct-45.4 
MCV-90 MCH-30.6 MCHC-34.1 RDW-15.2 RDWSD-49.7* Plt ___
___ 07:20PM BLOOD Neuts-72.5* Lymphs-13.3* Monos-11.6 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-8.54*# AbsLymp-1.57 
AbsMono-1.37* AbsEos-0.09 AbsBaso-0.04
___ 07:20PM BLOOD Plt ___
___ 08:04PM BLOOD ___ PTT-31.1 ___
___ 07:20PM BLOOD Glucose-156* UreaN-15 Creat-0.8 Na-132* 
K-5.2* Cl-98 HCO3-20* AnGap-19
___ 07:20PM BLOOD ALT-14 AST-40 AlkPhos-70 TotBili-0.8
___ 07:20PM BLOOD proBNP-523*
___ 07:20PM BLOOD cTropnT-<0.01
___ 06:05AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:20PM BLOOD Albumin-4.0
___ 06:05AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.9
___ 06:05AM BLOOD CRP-81.2*
___ 07:23PM BLOOD Lactate-2.0 K-4.9

MICRO:
===========================

___ CULTURE- < 10,000 CFU/mL. 
___ CULTUREBlood Culture, Routine-NGTD X 
4DAYS
___ CULTUREBlood Culture, Routine-NGTD X 
4DAYS

IMAGING/OTHER STUDIES:
============================
___ CTA:  
 Dilated main pulmonary artery to 4.2 cm suggests pulmonary 
hypertension. Some patient respiratory motion limits assessment 
of segmental and subsegmental pulmonary arterial branches, 
particularly in the left mid to lower lung. No evidence of 
pulmonary embolism elsewhere.  
 Small intermediate density pericardial effusion, suggesting 
that it may be complex.  
 Trace left pleural effusion. Bibasilar atelectasis.  

___ CXR: Left base opacity, could be due to atelectasis, but 
pneumonia may be present in the appropriate clinical setting.  

LABS ON DISCHARGE
==============================

___ 06:05AM BLOOD WBC-8.5 RBC-4.56* Hgb-13.8 Hct-40.9 
MCV-90 MCH-30.3 MCHC-33.7 RDW-15.4 RDWSD-50.4* Plt ___
___ 08:04PM BLOOD ___ PTT-31.1 ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-110* UreaN-10 Creat-0.6 Na-134 
K-4.0 Cl-99 HCO3-23 AnGap-___ male with a PMH of prostate cancer s/p 
prostatectomy, paroxysmal atrial fibrillation, and recent 
admission for FUO and weight loss who presents with palpitations 
found to be in atrial fibrillation with RVR. The patient was 
transferred from Urgent care after he was found to be in Afib w/ 
RVR, and was experiencing vague chest pain. Conversion from NSR 
to Afib w/ RVR was felt to be in the setting of patients 2 month 
history of fevers of unknown origin. The patient was evaluated 
with EKG, which showed no signs of ischemia, and CTA which 
showed no e/o PE. The patient was converted back to NSR with IV 
diltiazem and started on an increased dose of metoprolol. 
Hospital course c/b hx of unknown fevers (although, afebrile ~24 
hours during this admission), which patient has had an extensive 
infectious work up for on recent previous admission, and for 
which he will follow up with ID on ___, the day after 
discharge.

#Afib w/ RVR: Patient w/ hx paroxysmal Afib recently diagnosed 
in ___. Presented w/ vague chest pain, palpitations and HR's 
in the 130s found to be in Afib w/ RVR. Conversion from NSR to 
Afib w/ RVR was felt to be in the setting of the patient's 2 
month history of fevers of unknown origin (see below). The 
patient was evaluated with EKG, which showed no signs of 
ischemia, and CTA which showed no e/o PE. The patient was 
converted back to NSR with IV diltiazem and discharged on an 
increased dose of metoprolol. 

#FUO: Patient w/ recent admission (discharged ___ where he had 
extensive infectious disease work up that was negative. Work up 
on previous admission included: TEE ___ negative for 
vegetation, negative quant gold (but insufficient to r/o active 
disease),  negative Lyme antibodies, negative blood and urine 
cultures (bacterial and fungal). Blood and urine cultures 
remained negative on this admission. Recent PSA was 0. Patient 
to follow up with ID on ___, the day after discharge.

# Pericardial effusions: small pericardial effusion seen on TTE 
(___) during previous admission w/o evidence of tamponade. 
CTA on this admission showed no e/o increased size of 
pericardial effusion.  

CHRONIC ISSUES:
  
# H/o prostate cancer: s/p prostatectomy, PSA negative ___  
 
# GERD: continued omeprazole  

Transitional Issues
=====================================
-Patient to f/u with infectious disease on ___
-please follow up BP, patient recently uptitrated to metoprolol 
XL 37.5 mg qday

CODE: Full (confirmed) 
COMMUNICATION: Patient 
EMERGENCY CONTACT HCP: ___ (wife) ___

Billing: Greater than 30 minutes spent on discharge counseling 
and coordination of care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Magnesium Oxide 250 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 37.5 mg PO DAILY 
Hold if lightheaded / dizzy 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 
2.  Aspirin 81 mg PO DAILY  
3.  Docusate Sodium 100 mg PO DAILY  
4.  Magnesium Oxide 250 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Afib w RVR
Fever of unknown origin

Secondary Diagnosis:
Pericardial effusion
history of prostate cancer
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure being involved in your care

Why you were here:
-You were referred from Urgent Care after you began experiencing 
some palpitations and chest pain

What we did while you were here:
-We converted your Afib back to normal sinus rhythm with a 
medication called diltiazem, and increased your home dose of 
metoprolol from 25mg to 37.5 mg to prevent further episodes of 
rapid Afib
-We also spoke with your outpatient Infectious Disease doctor 
(___) about your fevers and weight loss to try and 
help determine the etiology for these symptoms

Your next steps
-Please continue taking your metoprolol 50 mg each day
-Please follow up with your infectious disease doctor on ___ 
for further workup of your fevers

We wish you well,
Your ___ Care Team
 
Followup Instructions:
___